US07709468B2
Preparation #3: 2-(4-Fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine
A mixture of 2-(4-fluorophenyl)imidazo[1,2-a]pyrazine (Preparation #2, 0.964 g, 4.52 mmol), 4-iodo-2-(methylthio)pyrimidine (Frontier, 2.28 g, 9.04 mmol), Cs2CO3 (2.21 g, 6.78 mmol), triphenylphosphine (0.474 g, 1.84 mmol), palladium acetate (0.203 g, 0.904 mmol), and DMF (10.5 mL) was heated at about 80° C. for about 13 h. The mixture was cooled to ambient temperature, diluted with water, and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting material was triturated with EtOAc and filtered to yield the title compound (0.640 g, 41%): LC/MS (Table 1, Method b) Rt=2.0 min; MS m/z: 338.4 (M+H)+.

reactant | 2-(4-fluorophenyl)imidazo[1,2-a]pyrazine | 4.52 mmol, 0.964 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2)C1 | C12H8FN3
reactant | 4-iodo-2-(methylthio)pyrimidine | 9.04 mmol, 2.28 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | Cs2CO3 | 6.78 mmol, 2.21 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | triphenylphosphine | 1.84 mmol, 0.474 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
catalyst | palladium acetate | 0.904 mmol, 0.203 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 10.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-imidazo[1,2-a]pyrazine | 0.640 g, 41% | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2)C1C1=NC(=NC=C1)SC | C17H12FN5S
